### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Angle/Oriented): oriented/unoriented equality and bisection lemmas

### PR DESCRIPTION
**Pull request by jsm28**
Add lemmas

```lean
lemma oangle_eq_neg_of_angle_eq_of_sign_eq_neg {w x y z : V}
    (h : InnerProductGeometry.angle w x = InnerProductGeometry.angle y z)
    (hs : (o.oangle w x).sign = -(o.oangle y z).sign) : o.oangle w x = -o.oangle y z := by
```

and

```lean
lemma angle_eq_iff_oangle_eq_neg_of_sign_eq_neg {w x y z : V} (hw : w ≠ 0) (hx : x ≠ 0)
    (hy : y ≠ 0) (hz : z ≠ 0) (hs : (o.oangle w x).sign = -(o.oangle y z).sign) :
    InnerProductGeometry.angle w x = InnerProductGeometry.angle y z ↔
      o.oangle w x = -o.oangle y z := by
```

and similar affine versions, corresponding to such lemmas that already exist when the signs are equal rather than negations of each other. Deduce lemmas relating oriented and unoriented versions of angle bisection:

```lean
lemma angle_eq_iff_oangle_eq_or_sameRay {x y z : V} (hx : x ≠ 0) (hz : z ≠ 0) :
    InnerProductGeometry.angle x y = InnerProductGeometry.angle y z ↔
      o.oangle x y = o.oangle y z ∨ SameRay ℝ x z := by
```

and

```lean
lemma angle_eq_iff_oangle_eq_or_wbtw {p₁ p₂ p₃ p₄ : P} (hp₁ : p₁ ≠ p₂) (hp₄ : p₄ ≠ p₂) :
    ∠ p₁ p₂ p₃ = ∠ p₃ p₂ p₄ ↔ ∡ p₁ p₂ p₃ = ∡ p₃ p₂ p₄ ∨ Wbtw ℝ p₂ p₁ p₄ ∨ Wbtw ℝ p₂ p₄ p₁ := by
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Angle/Oriented/Basic.lean [hunk 1]
```diff
@@ -943,4 +965,54 @@ theorem abs_oangle_sub_right_toReal_lt_pi_div_two {x y : V} (h : ‖x‖ = ‖y
...
+        simp only [hy, hz, false_or] at h0'
+        rcases h0' with h0' | h0'
+        · rw [h0'] at he
+          obtain ⟨-, r, hr0, rfl⟩ := InnerProductGeometry.angle_eq_zero_iff.1 h0'
+          obtain ⟨-, r', hr'0, rfl⟩ := InnerProductGeometry.angle_eq_zero_iff.1 he
+          simp_all
+        · rw [h0'] at he
+          obtain ⟨-, r, hr0, rfl⟩ := InnerProductGeometry.angle_eq_pi_iff.1 h0'
+          obtain ⟨-, r', hr'0, rfl⟩ := InnerProductGeometry.angle_eq_pi_iff.1 he
+          simp_all
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Oriented/Basic.lean]:
```suggestion
      have h0' : InnerProductGeometry.angle y z = 0 ∨ InnerProductGeometry.angle y z = π := by
        rcases h0 with h0 | h0
          <;> simpa [*] using o.eq_zero_or_angle_eq_zero_or_pi_of_sign_oangle_eq_zero h0
      rcases h0' with h0' | h0'
      · rw [h0'] at he
        obtain ⟨-, r, hr0, rfl⟩ := InnerProductGeometry.angle_eq_zero_iff.1 h0'
        obtain ⟨-, r', hr'0, rfl⟩ := InnerProductGeometry.angle_eq_zero_iff.1 he
        simp_all
      · rw [h0'] at he
        obtain ⟨-, r, hr0, rfl⟩ := InnerProductGeometry.angle_eq_pi_iff.1 h0'
        obtain ⟨-, r', hr'0, rfl⟩ := InnerProductGeometry.angle_eq_pi_iff.1 he
        simp_all
```
Let's deduplicate this proof

**Comment by JovanGerb** [comment]
Could you change the order of the lemmas (in both files) so that `oangle_eq_neg_of_angle_eq_of_sign_eq_neg` and `angle_eq_iff_oangle_eq_neg_of_sign_eq_neg` come directly after their analogues `oangle_eq_of_angle_eq_of_sign_eq` and `angle_eq_iff_oangle_eq_of_sign_eq`?

**Comment by jsm28** [comment]
Order changed as requested.

**Comment by JovanGerb** [comment]
Thanks, LGTM :tada:

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
